US07495007B2
In a manner similar to the method described in example 1b, 2-methacrolein (2 g, 20 mmol) (Acros) was used as the starting material in place of 3-chloro-benzaldehyde to react with 1,1,1,3,3,3-hexamethyldisilazane (3.2 g, 20 mmol), n-butyllithium (2.5 M, 8 mL, 20 mmol), trimethylsilyl chloride (2.2 g, 20 mmol), triethylamine (2.7 g, 27 mmol) and acetyl chloride (2.0 g, 27 mmol) to give 1-isopropenyl-3-trimethylsilyoxy-2-aza-1,3-butadiene and used for the next step without further purification.

reactant | 3-chloro-benzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 20 mmol, 3.2 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 20 mmol, 2.5 M, 8 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 20 mmol, 2.2 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 27 mmol, 2.7 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 27 mmol, 2.0 g | C(C)(=O)Cl | C2H3ClO
product | 1-isopropenyl-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(=C)(C)C=NC(=C)O[Si](C)(C)C | C9H17NOSi
